US07435731B2
(2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanol (8.02 g, 29.3 mmol) was taken up in 80 mL of dry toluene, and manganese dioxide 26 g) was added. The reaction mixture was refluxed for 2.5 hours, after which 2.5 g of additional MnO2 was added. The reaction mixture was refluxed for another hour and an additional 2.5 g of MgO2 was added. The reaction mixture was refluxed for three hours, and was then hot filtered through Celite. The Celite plug was washed with hot EtOAc (in several portions), and the organic solvents were combined. The solvent was evaporated under reduced pressure, and the residue was subject to flash chromatography 5% to 10% EtOAc in hexanes) to give 2.55 g of (2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanone. Mass Spec. M−H=270.

reactant | (2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanol | 29.3 mmol, 8.02 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC(=CC1F)F)F | C12H7ClF3NO
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 26 g | [O-2].[O-2].[Mn+4]
catalyst | MnO2 | 2.5 g | O=[Mn]=O
product | (2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanone | 2.55 g | ClC1=C(C=CC=C1)C(=O)C=1C(=NC(=CC1F)F)F | C12H5ClF3NO
